US08048897B2
(1) Synthesis of (2-Benzyloxyphenyl)-(3-methoxyphenyl)-methanol
To a solution of 2-benzyloxybenzaldehyde (3.0 g, 14.1 mmol) in THF (50 mL), a solution of 4-methoxyphenyl-magnesium bromide in THF (1.0 M, 17.0 mL) was added dropwise in a nitrogen stream under cooling with ice. The mixture was stirred at room temperature for one hour, and then a saturated ammonium chloride aqueous solution was added thereto under cooling with ice and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution and dried (anhydrous magnesium sulfate), and then the solvent was distilled under reduced pressure. The obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:4)] to obtain the title compound (4.92 g, 100%).

reactant | 2-benzyloxybenzaldehyde | 14.1 mmol, 3.0 g | C(C1=CC=CC=C1)OC1=C(C=O)C=CC=C1 | C14H12O2
reactant | 4-methoxyphenyl-magnesium bromide | COC1=CC=C(C=C1)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 1.0 M, 17.0 mL | C1CCOC1 | C4H8O
product | (2-Benzyloxyphenyl)-(3-methoxyphenyl)-methanol | 4.92 g, 100% | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(O)C1=CC(=CC=C1)OC | C21H20O3
